* Schematics Netlist *



R_R2         $N_0002 $N_0001  100k  
R_R3         $N_0004 $N_0003  1k  
X_U1A         0 $N_0002 +15 -15 $N_0001 TL082
R_R4         I_sence $N_0005  1k  
X_U2A         $N_0003 $N_0005 +15 -15 $N_0006 TL082
C_C1         $N_0005 0  100p  
R_R5         $N_0003 $N_0006  100k  
R_R6         $N_0006 $N_0007  10k  
R_R14         $N_0009 $N_0008  10  
E_E1         $N_0010 $N_0011 aa 0 1
L_L1         0 I_sence  5H  
R_R15         I_sence 0  33  
D_D1         $N_0011 $N_0012 Dbreak-X 
E_E2         $N_0008 0 bb 0 1
M_M2         $N_0011 $N_0009 0 0 IRF255
D_D2         0 $N_0011 Dbreak-X 
L_L2         V_sence 0  12mH  
M_M3         $N_0012 $N_0014 $N_0013 $N_0013 IRF255
M_M4         $N_0013 $N_0015 0 0 IRF255
E_E3         $N_0016 $N_0013 bb 0 1
E_E4         $N_0017 0 aa 0 1
R_R16         $N_0015 $N_0017  10  
R_R17         $N_0014 $N_0016  10  
D_D3         0 $N_0013 Dbreak-X 
D_D4         $N_0013 $N_0012 Dbreak-X 
L_L3         $N_0018 $N_0013  50uH  
L_L4         $N_0019 $N_0018  1mH  
Kn_K1         L_L5 L_L1     1
Kn_K2         L_L4 L_L2     1
L_L5         $N_0011 $N_0019  5uH  
E_LIMIT1         $N_0004 0 VALUE {LIMIT(V($N_0001),-1,1)}
C_C2         $N_0007 0  100p  
V_V3         -15 0 -15
V_V4         +15 0 15
V_V1         $N_0020 0  
+SIN 0 5 400 0 0 0
R_R7         $N_0021 +15  10k  
R_R8         0 $N_0021  10k  
R_R9         $N_0022 0  10k  
R_R10         -15 $N_0022  10k  
R_R11         0 bb  10k  
X_U3A         $N_0007 $N_0021 +15 -15 bb TL082
R_R12         0 aa  10k  
X_U4A         $N_0022 $N_0007 +15 -15 aa TL082
R_R1         $N_0020 $N_0002  5k  
R_R22         V_sence $N_0023  5k  
R_R21         $N_0024 $N_0002  5k  
R_R20         $N_0025 $N_0024  5k  
X_U5A         0 $N_0025 +15 -15 $N_0024 TL082
R_R19         V_sence $N_0025  50k  
C_C3         V_sence 0  10u  
C_C4         $N_0025 $N_0023  220p  
M_M1         $N_0012 $N_0026 $N_0011 $N_0011 IRF255
R_R13         $N_0026 $N_0010  10  
V_V2         $N_0012 0 27
R_R18         V_sence 0  {Rn}  
